Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HPI(4): Mr. ___ is a ___ male with no significant past
medical history who presents to the ER with bilateral arm pain.
He is doing cross-fit and had an especially challenging work-out
3 days prior to admission. He noted that his bilateral biceps
were painful, ___ initially, achy in character, and associated
with inability to fully extend his elbows.  This gradually
improved over the next 2 days, with the muscles becoming more
sore with ___ pain.  However, he noted that he had dark, and
very foamy urine, which as a biochemist, knew that was 
associated
with proteinuria.  Therefore, he came to the ER for evaluation. 
He noted no other pain aside from some soreness in his abdominal
muscles, no difficulty moving other limbs, no fevers, no chest 
or
RUQ pain, no fevers, or difficulty breathing.  He has had no
episodes of muscle aching or changes in his urine at any other
periods in his life, and has no family history of family with
inborn metabolic disorders.  

Vitals in the ER: 
Yest 22:42  97.0  56  151/105  19  100% RA 
Today 14:13 98.3  74  111/69   16  100% RA 

Initial CK of ~93,000, after receiving 2 L of fluid now down to
~73,000.  

There, the patient received: 
Ativan 1mg PO 
4L IVF 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
syncope after a stressful event that self-resolved.  No previous
medications, hospitalizations, or surgeries.  
 
Social History:
___
Family History:
FAMILY HISTORY: No inborn errors of metabolism
 
Physical Exam:
ADMISSION
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular rate; normal perfusion, no appreciable JVD
RESP: Symmetric breathing pattern with no stridor. Breathing is
non-labored
GI: Abdomen soft, non-distended, mild central abdominal
tenderness in abdominal muscles, but no RUQ tenderness, no
hepatosplenomegaly appreciated.  
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, normal muscle bulk and tone, some tenderness 
to
palpation in biceps bilaterally
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, ___ strength in UE and ___. 
Sensation to light touch grossly intact throughout
PSYCH: normal thought content, logical thought process,
appropriate affect

DISCHARGE
VS: ___ 0810 Temp: 97.3 PO BP: 125/78 R Sitting HR: 48 RR:
18 O2 sat: 100% O2 delivery: Ra 
___ ___ Dyspnea: 0 RASS: 0 Pain Score: ___ 
Gen - sitting in a chair, appears well, NAD
Eyes - EOMI
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender, normal bowel sounds 
Ext - biceps nonpainful to palpation
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate
 
Pertinent Results:
ADMISSION
___ 10:45PM BLOOD WBC-8.0 RBC-4.44* Hgb-13.4* Hct-41.7 
MCV-94 MCH-30.2 MCHC-32.1 RDW-12.1 RDWSD-41.7 Plt ___
___ 10:45PM BLOOD Neuts-68.3 ___ Monos-6.2 Eos-2.6 
Baso-0.4 Im ___ AbsNeut-5.46 AbsLymp-1.79 AbsMono-0.50 
AbsEos-0.21 AbsBaso-0.03
___ 10:45PM BLOOD Glucose-90 UreaN-15 Creat-0.9 Na-140 
K-4.3 Cl-100 HCO3-28 AnGap-12
___ 10:45PM BLOOD Calcium-9.4 Phos-4.5 Mg-2.3
___ 11:03PM BLOOD Lactate-0.8
___ 10:45PM BLOOD CK-MB-14* MB Indx-0.0
___ 10:45PM BLOOD ___

DISCHARGE

___ 06:40AM BLOOD WBC-4.5 RBC-4.27* Hgb-12.9* Hct-39.9* 
MCV-93 MCH-30.2 MCHC-32.3 RDW-12.2 RDWSD-42.0 Plt ___
___ 07:20AM BLOOD Glucose-75 UreaN-9 Creat-0.9 Na-145 K-4.3 
Cl-108 HCO3-27 AnGap-10
___ 07:20AM BLOOD Calcium-9.0 Phos-3.8 Mg-1.9
___ 03:00PM BLOOD CK(CPK)-5006*

MICRO: 
 URINE CULTURE (Final ___:    NO GROWTH. 
 
Brief Hospital Course:
___ year-old male with history of syncope who was
admitted ___ with worsening bilateral arm pain and dark 
urine following an intense Crossfit workout, found to have 
rhabdomyolysis without renal dysfunction treated with IV fluids

# Acute Rhabdomyolysis
# Upper Arm pain bilaterally
Patient presented with arm soreness, foamy dark urine and 
significantly elevated CK, which peaked at 97k.  No signs of 
renal dysfunction.  Only notable aspect of history was recent 
intense cross-fit workout without signs or history to suggest 
other metabolic, infectious or toxic causes for muscle 
breakdown.  He was treated with IV fluids for goal UOP 
200-300cc/hr, with slow improvement in his CK over his hospital 
course.  Pain treated with prn tylenol. At the time of discharge 
CK was ~5000. He was instructed to have his CK rechecked as an 
outpatient in a few days and follow up with his primary care 
doctor. 

# Thrombocytopenia - Noted to have mild thrombocytopenia in 
130ks, which was stable this admission.  Unclear if it related 
to acute process (e.g. rhabdomyolysis) versus other chronic 
process.  Would consider recheck at follow-up to ensure 
normalization. 

# Abnormal LFTs - Noted to have AST > ALT on admission, 
suspected to be of muscle origin.  Improved with improving CK.  
Would consider recheck at follow-up to ensure normalization. 

#Mild proteinuria
Noted on admission; suspected to relate to above acute process.  
Would consider recheck at follow-up to ensure normalization. 

> 30 minutes spent on complex discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Rhabdomyolysis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___: 

It was a pleasure caring for you at ___.  You were admitted 
with a condition called rhabdomyolysis, caused by breakdown of 
muscle cells. You were treated with IV fluids and you improved.  


You are now ready for discharge home. You should have your CK 
checked in a few days (around ___ to ensure that it 
continues to trend down (a lab slip will be provided to you) and 
follow up with your primary care doctor on ___. Continue 
your increased intake of fluids by mouth. 
 
Followup Instructions:
___